Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][C:2],8.6198184576
[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.96368958805
[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.54816043678
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[H:12].[H:1][C:2]([H:3])=[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],1.1801971866
[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.19602259454
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],1.15924770906
[H:13].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.52866011303
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-4.93088599978
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.58754655721
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.57786908044
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],4.14645701177
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]#[C:3][C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.99035539998
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1],5.84212141105
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[O:1]=[C:2][H:3],4.67397189896
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][H:7]>>[O:1][C@@:2]([C:3]#[C:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],0.167520213771
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:6],4.61079507125
[H:1][C:2][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.5191481834300005
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][H:9],0.91678553465
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-7.15026952
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[H:6].[O:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],7.49320378153
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4],2.11402939314
[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],6.30997781425
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-0.6127296664490001
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.82015316847
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],3.93966917539
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],6.36350816793
[O:1]=[C:2]=[C:3]([H:4])[C:7](=[C:6]=[O:5])[H:8]>>[O:1]=[C:2][C@:3]1([H:4])[O:5][C:6][C:7]1[H:8],4.12864916699
[O:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.445139984626
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:10][H:11],1.58390123213
